US07253286B2
N-(6-(4-Aminophenoxy)pyrimidin-4-yl)-4-methylsulfanylphenylamine
N-(6-(4-Nitrophenoxy)pyrimidin-4-yl)-4-methylsulfanylphenylamine (620 mg, 1.75 mmol), iron powder (489 mg, 8.75 mmol) and ammonium chloride (936 mg, 17.5 mmol) were suspended in an ethanol (16 ml)-water (4 ml) mixed solvent and the suspension was heated and stirred at 80° C. for 1 hour. Upon completion of the reaction, the reaction mixture was filtered with celite and washed in an ethyl acetate-tetrahydrofuran mixed solvent. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was suspended in ethyl acetate, the suspension was diluted with hexane, and the crystals were filtered out, washed with hexane and then blow-dried to obtain the title compound (392 mg, 1.21 mmol, 69%) as colorless crystals.

reactant | N-(6-(4-Nitrophenoxy)pyrimidin-4-yl)-4-methylsulfanylphenylamine | 1.75 mmol, 620 mg | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=N2)NC2=CC=C(C=C2)SC)C=C1 | C17H14N4O3S
reactant | ammonium chloride | 17.5 mmol, 936 mg | [Cl-].[NH4+]
reactant | ethanol | 16 ml | C(C)O | C2H6O
reactant | water | 4 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | iron | 8.75 mmol, 489 mg | [Fe] | Fe
product | N-(6-(4-Aminophenoxy)pyrimidin-4-yl)-4-methylsulfanylphenylamine | 1.21 mmol, 392 mg, 69% | NC1=CC=C(OC2=CC(=NC=N2)NC2=CC=C(C=C2)SC)C=C1 | C17H16N4OS
